US08609680B2
Preparation of (4,5,6,7-Tetrahydro-pyrazolo[1,5-a]pyridin-2-yl)-acetic acid hydrochloride (SM-1ak)
The crude 2-(2-methoxy-2-oxoethyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridine-3-carboxylate (39 mg, 0.16 mmol) was suspended in concentrated HCl (5 mL) and was heated at reflux for 2 hours. The reaction was cooled and concentrated in vacuo to afford the title compound (30 mg, 88%). The material was used directly without further purification. MS (ES+) 181.2 (M+H)+. Retention time: 1.26 min XBridge C18 4.6×50 mm 5 um, 5-100% acetonitrile:water (0.1% formic acid).

reactant | 2-(2-methoxy-2-oxoethyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridine-3-carboxylate | 0.16 mmol, 39 mg | COC(CC1=NN2C(CCCC2)=C1C(=O)[O-])=O
reactant | HCl | 5 mL | Cl | ClH
product | (4,5,6,7-Tetrahydro-pyrazolo[1,5-a]pyridin-2-yl)-acetic acid hydrochloride | 30 mg, 88% | Cl.N1=C(C=C2N1CCCC2)CC(=O)O | InChI=1S/C9H12N2O2.ClH/c12-9(13)6-7-5-8-3-1-2-4-11(8)10-7;/h5H,1-4,6H2,(H,12,13);1H
